US08877801B2
To a solution of (E)-ethyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)-1-oxidobenzo[b]thiophen-3-yl)oxy)phenyl)-2-methylacrylate (144 mg, 0.294 mmol) in THF (6.0 mL) was added triphenylphosphine (285 mg, 1.086 mmol) and TMS-Cl (0.375 mL, 2.94 mmol). The reaction was heated to 75° C. for 7 h after which time the mixture was cooled to room temperature, quenched with sat. aq. NaHCO3 and extracted with EtOAc, the combined organic layers were collected (phase separator) and concentrated in vacuo to afford the crude product which was purified by column chromatography (SiO2, 0-40% EtOAc/Heptane) to afford (E)-ethyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)-2-methylacrylate (107 mg, 0.225 mmol, 77% yield). LC/MS (m/z, MH+): 475.3.

reactant | (E)-ethyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)-1-oxidobenzo[b]thiophen-3-yl)oxy)phenyl)-2-methylacrylate | 0.294 mmol, 144 mg | COC=1C=CC2=C(S(C(=C2OC2=CC=C(C=C2)/C=C(/C(=O)OCC)\C)C2=CC=C(C=C2)OC)=O)C1 | C28H26O6S
reactant | triphenylphosphine | 1.086 mmol, 285 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | TMS-Cl | 2.94 mmol, 0.375 mL | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
product | (E)-ethyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)-2-methylacrylate | 0.225 mmol, 107 mg, 77% yield | COC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C(/C(=O)OCC)\C)C2=CC=C(C=C2)OC)C1 | C28H26O5S
